US06921763B2
A solution of 6-isopropyl-2-nitrophenol (3.000 g, 16.56 mmol) and sodium hydrosulfite (11.53 g, 66.23 mmol) in ethanol (180 mL) and water (90 mL) was stirred at 80° C. for 20 h and then cooled to room temperature. The resulting orange solution was concentrated and then partitioned between dichloromethane (50 mL) and water (50 mL). The organic phase was separated and washed with brine (25 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated to afford 2-amino-6-isopropylphenol as an orange solid (1.792 g, 72%). RP-HPLC Rt 8.171 min, 92% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 A, 5 μm, 150×3.9 mm column); m/z 150 (M−H)−.

reactant | 6-isopropyl-2-nitrophenol | 16.56 mmol, 3.000 g | C(C)(C)C1=CC=CC(=C1O)[N+](=O)[O-] | C9H11NO3
reactant | sodium hydrosulfite | 66.23 mmol, 11.53 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 180 mL | C(C)O | C2H6O
solvent | water | 90 mL | O | H2O
product | 2-amino-6-isopropylphenol | 1.792 g, 72% | NC1=C(C(=CC=C1)C(C)C)O | C9H13NO
